US04812573
7-(Phenylsulphamoyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride was reacted with ethyl-5-bromovalerate under conditions analogous to those described in Example 5 and the resulting ethyl ester was hydrolysed according to the method described in Example 2(b) to give 5-(7-phenylsulphamoyl-1,2,3,4-tetrahydroisoquinolin-2-yl)valeric acid as a colourless microcrystalline solid. mpt. 176°-176.5° C. (acetonitrile/ethanol).

reactant | 7-(Phenylsulphamoyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.C1(=CC=CC=C1)NS(=O)(=O)C1=CC=C2CCNCC2=C1
reactant | ethyl-5-bromovalerate | C(C)OC(CCCCBr)=O | C7H13BrO2
product | 5-(7-phenylsulphamoyl-1,2,3,4-tetrahydroisoquinolin-2-yl)valeric acid | C1(=CC=CC=C1)NS(=O)(=O)C1=CC=C2CCN(CC2=C1)CCCCC(=O)O | C20H24N2O4S
